US09371282B2
N,N′-Dicyclohexylcarbodiimide (1.75 g, 8.5 mmol) is added portionwise at 0° C. to 4-chloro-o-phenylenediamine (1.21 g, 8.5 mmol) and 3-tert-Butoxycarbonylamino-tetrahydro-furan-3-carboxylic acid (1.97 g, 8.5 mmol) in THF (50 mL). After stirring overnight at rt, the reaction mixture was filtered and evaporated under reduced pressure to give a residue that is purified by flash chromatography (eluent 0-5% EtOH/DCM) to furnish [3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester (2.35 g, 78%).

reactant | N,N′-Dicyclohexylcarbodiimide | 8.5 mmol, 1.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-chloro-o-phenylenediamine | 8.5 mmol, 1.21 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-tert-Butoxycarbonylamino-tetrahydro-furan-3-carboxylic acid | 8.5 mmol, 1.97 g | C(C)(C)(C)OC(=O)NC1(COCC1)C(=O)O | C10H17NO5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester | 2.35 g, 78% | C(C)(C)(C)OC(NC1(COCC1)C1=NC2=C(N1)C=CC(=C2)Cl)=O | C16H20ClN3O3
